US07091227B2
1-(6-(4-Pyrazolyl)-2-benzothiazolyl)-3-ethylurea
Similar to the synthesis of 1-(6-(3-aminophenyl)-2-benzothiazolyl)-3-ethylurea, a mixture of 4-pyrazolylboronic pinacolate, 1-(6-bromo-2-benzothiazolyl)-3-ethylurea, sodium carbonate, and Pd(PPh3)4 in DMF/water mixed solvent was reacted to give the desired compound 0.543 g (30%). LC/MS 288.2 (M+1); LC retention time 2.61 min.

reactant | 1-(6-(3-aminophenyl)-2-benzothiazolyl)-3-ethylurea | NC=1C=C(C=CC1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C16H16N4OS
reactant | 1-(6-bromo-2-benzothiazolyl)-3-ethylurea | BrC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C10H10BrN3OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF water | CN(C)C=O.O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(6-(4-Pyrazolyl)-2-benzothiazolyl)-3-ethylurea | 0.543 g, 30% | N1N=CC(=C1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C13H13N5OS
